US07709645B2
To a solution of (2-amino-ethyl)-methyl-carbamic acid tert-butyl ester (100 mg, 0.574 mmol) in DMF (2 mL) was added diisopropylethylamine (0.3 mL, 1.75 mmol) and 5-bromo-2-isocyanato-N,N-dimethyl-benzamide (154 mg, 0.572 mmol). The solution was stirred for 18 hours at 80° C. Ethyl acetate was added to the reaction mixture, and the combined mixture was washed 3 times with water. The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo. The crude material was recrystallized from a mixture of ethyl acetate and dichloromethane to give 75 mg (30%) of {2-[3-(4-bromo-2-dimethylcarbamoyl-phenyl)-ureido]-ethyl}-methyl-carbamic acid tert-butyl ester. 1H-NMR (250 MHz, CDCl3) δ 11.0 (br s, 1H), 8.35 (d, J=9.1 mmol), 7.77 (s, 1H), 7.57 (s, 1H), 7.42 (d, J=9.0 Hz, 1H), 3.45-3.55 (m, 5H), 2.97 (s, 6H), 2.86 (s, 3H), 1.12 (s, 9H).

reactant | (2-amino-ethyl)-methyl-carbamic acid tert-butyl ester | 0.574 mmol, 100 mg | C(C)(C)(C)OC(N(C)CCN)=O | C8H18N2O2
reactant | diisopropylethylamine | 1.75 mmol, 0.3 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 5-bromo-2-isocyanato-N,N-dimethyl-benzamide | 0.572 mmol, 154 mg | BrC=1C=CC(=C(C(=O)N(C)C)C1)N=C=O | C10H9BrN2O2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | {2-[3-(4-bromo-2-dimethylcarbamoyl-phenyl)-ureido]-ethyl}-methyl-carbamic acid tert-butyl ester | 75 mg, 30% | C(C)(C)(C)OC(N(C)CCNC(=O)NC1=C(C=C(C=C1)Br)C(N(C)C)=O)=O | C18H27BrN4O4
